US06008243
To a solution of N-(8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9(S)-yl)-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester (185 mg, 0.280 mmol) in EtOAc/EtOH/THF was added in succession 10% palladium on carbon (50 mg) and 88% formic acid (0.1 mL). After 1.5 hours, HOAc (1 mL) was added. After 16 hours, more 10% palladium on carbon (25 mg), 88% formic acid (0.1 mL), and HOAc (1 mL) was added. At 24 hours, more 10% palladium on carbon (25 mg) was added. After 25 hours total elapsed time, the catalyst was filtered off. The filtrate was concentrated to a crude solid. The product dissolved in a minimal amount of MeOH/EtOAc, and inorganic particulates were filtered away. The filtrate was concentrated to a solid that was triturated with CH2Cl2 /hex to give 76 mg (46%) of N-(8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9(S)-yl)-3(R)-[3-[4-(pyridinyl)phenyl]-1H-pyrrol-1-yl]succinamic acid as a yellow solid, mp>172° C. (d). 1H NMR (CD3COOD): δ 8.91 (d, 2H, J=6.6 Hz), 8.23 (d, 2H, J=6.6 Hz), 7.93 (d, 2H, J=8.5 Hz), 7.75 (d, 2H, J=8.5 Hz), 7.62 (d, 1H, J=7.4 Hz), 7.40-7.33 (m, 2H), 7.17 (t, 1H, J=7.5 Hz), 7.10 (t, 1H, J=7.4 Hz), 7.04 (s, 1H), 6.93 (t, 1H, J=2.6 Hz), 6.79 (bm, 1H, partially exchanged), 6.58 (s, 1H), 5.34 (t, 1H, J=7.5 Hz), 4.72 (dd, 1H, J=4.6, 11.2 Hz), 4.35-4.30 (m, 1H), 4.23-4.15 (m, 1H), 3.74-3.65 (m, 2H), 3.56-3.42 (m, 2H), 3.31-3.00 (m, 4H), 2.91-2.85 (m, 1H), 2.74-2.67 (m, 1H). Anal. Calculated for C34H33N5O5.0.4 H2O: C, 68.19; H, 5.69; N, 11.70. Found: C, 68.13; H, 5.77; N, 11.81.

reactant | N-(8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9(S)-yl)-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester | 0.280 mmol, 185 mg | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)N2C=C(C=C2)C2=CC=C(C=C2)C2=CC=NC=C2)=O | C41H39N5O5
reactant | formic acid | 0.1 mL | C(=O)O | CH2O2
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
reactant | formic acid | 0.1 mL | C(=O)O | CH2O2
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | EtOAc EtOH THF | CCOC(=O)C.CCO.C1CCOC1
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | N-(8-oxo-4-oxa-1,7-diazatricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-9(S)-yl)-3(R)-[3-[4-(pyridinyl)phenyl]-1H-pyrrol-1-yl]succinamic acid | 76 mg, 46% | O=C1NCCOCCN2C3=CC=CC=C3C(C[C@@H]1NC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=C(C=C1)C1=NC=CC=C1)=O)=C2 | C34H33N5O5
